US09376392B2
4-Cyclobutylbenzyl methanesulfonate was prepared in a similar manner as used to prepare pyrimidin-5-ylmethyl methanesulfonate using (4-cyclobutylphenyl)methanol instead of pyrimidin-5-ylmethanol. The product was used directly in the next reaction without characterization.

reactant | pyrimidin-5-ylmethyl methanesulfonate | CS(=O)(=O)OCC=1C=NC=NC1 | C6H8N2O3S
reactant | (4-cyclobutylphenyl)methanol | C1(CCC1)C1=CC=C(C=C1)CO | C11H14O
product | 4-Cyclobutylbenzyl methanesulfonate | CS(=O)(=O)OCC1=CC=C(C=C1)C1CCC1 | C12H16O3S
